US05744483
A mixture of 7-hydroxychromanone (10.0 g, 61 mmol), benzyl bromide (7.6 mL,64 mmol), and potassium carbonate (16.5 g, 120 mmol) in acetone (250 mL) was gently refluxed 24 h. The mixture was cooled and filtered through celite. The filtrate 20 was concentrated and the residue was taken up in ethyl acetate. The organic solution was washed with water and brine, driedover calcium sulfate, and concentrated to a tan solid. Recrystallization from ethanol gave 12.63 g (81%) of 7-benzyloxychromanone as tan crystal which had mp 99°-102° C.; NMR δ7.85 (d, J=9 Hz, 1H), 7.44-7.32 (m,5H), 6.66 (dd, J=2.4, 9Hz, 1H), 6.49 (d, J=2.4 Hz, 1H), 5.09 (s,2H), 4.52 (t, J=6.5 Hz, 2H), 2.76 (t, J=6.5 Hz, 2H).

reactant | 7-hydroxychromanone | 61 mmol, 10.0 g | OC1=CC=C2CCC(OC2=C1)=O | C9H8O3
reactant | benzyl bromide | 64 mmol, 7.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 120 mmol, 16.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 7-benzyloxychromanone | 12.63 g, 81% | C(C1=CC=CC=C1)OC1=CC=C2CCC(OC2=C1)=O | C16H14O3
